US09085534B2
3-{[(5-methylthiophen-2-yl)methyl]amino}pyridine-4-carboxylic acid
The title compound was prepared in 7% yield from 5-methylthiophen-2-ylmethylamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 8.27 (br s, 1H), 7.84 (br s, 1H), 7.57 (d, 1H, J=4.8 Hz), 6.87 (d, 1H, 3.2 Hz), 6.65 (d, 1H, J=2.3 Hz), 4.65 (s, 2H), 2.38 (s, 3H). [M+H] calc'd for C12H12N2O2S, 249; found 249.

reactant | 5-methylthiophen-2-ylmethylamine | CC1=CC=C(S1)CN | C6H9NS
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-{[(5-methylthiophen-2-yl)methyl]amino}pyridine-4-carboxylic acid | 7% yield | CC1=CC=C(S1)CNC=1C=NC=CC1C(=O)O | C12H12N2O2S
